US07767691B2
Preparation of 1-ethyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (31.3 mg, 0.112 mmol) and bromoethane (0.03 mL, 0.4 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (28.4 mg, 65%). EI-MS m/z 308 (M+) Rt (1.49 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.112 mmol, 31.3 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | bromoethane | 0.4 mmol, 0.03 mL | BrCC | C2H5Br
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 1-ethyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide | 28.4 mg, 65% | [Br-].C(C)[N+]12CCC(CC1)(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C21H26NO.BrH/c1-2-22-15-13-20(17-22,14-16-22)21(23,18-9-5-3-6-10-18)19-11-7-4-8-12-19;/h3-12,23H,2,13-17H2,1H3;1H/q+1;/p-1
